US05710180
13e. 3-(t-Butoxycarbonylamino)-2-(3-cyclopentyloxy-4-methoxyphenyl)propioamide
To a solution of 2-cyano-2-(3-cyclopentyloxy-4-methoxyphenyl)acetamide (0.504 g, 1.85 mmol) in methanol (25 mL) was added 70% perchloric acid (0.18 mL, 1.9 mmol) and 10% palladium on carbon (0.03 g). The resulting mixture was hydrogenated at 50 psi for 2 h and filtered through a pad of Celite. The filtrate was concentrated in vacuo. The solid residue was partitioned between methylene chloride and aqueous sodium carbonate and the organic layer was dried (sodium sulfate). The solvent was removed in vacuo, and the residue was dissolved in methylene chloride (25 mL) and treated with di-t-butyldicarbonate (0.5 mL, 2.18 mmol). After 20 h, the solvent was evaporated and the residue was purified by flash chromatography, eluting with 1:1 ethyl acetate/hexanes, to provide a pale yellow solid.

reactant | 2-cyano-2-(3-cyclopentyloxy-4-methoxyphenyl)acetamide | 1.85 mmol, 0.504 g | C(#N)C(C(=O)N)C1=CC(=C(C=C1)OC)OC1CCCC1 | C15H18N2O3
reactant | perchloric acid | 1.9 mmol, 0.18 mL | Cl(=O)(=O)(=O)O | ClHO4
reactant | di-t-butyldicarbonate | 2.18 mmol, 0.5 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on carbon | 0.03 g | [Pd] | Pd
product | 3-(t-Butoxycarbonylamino)-2-(3-cyclopentyloxy-4-methoxyphenyl)propioamide | C(C)(C)(C)OC(=O)NCC(C(=O)N)C1=CC(=C(C=C1)OC)OC1CCCC1 | C20H30N2O5
